US07479562B2
1,4-Bis(3-chloropropyl)piperazine-2,5-dione
To a stirred solution of glycine anhydride (5.0 g, 43 mmol) in DMF (100 mL) was added NaH (3.9 g, 96 mmol). The reaction was then heated to 50° C. and was allowed to stir until bubbling of H2 ceased (˜1 h). The reaction was then cooled to room temperature and to the mixture was added 3-chloro-1-bromopropane (9.3 mL, 96 mmol). The reaction mixture was allowed to stir at room temperature overnight. After overnight, the reaction was condensed in vacuo and then dissolved in DCM (200 mL) and washed with 1N HCl (100 mL), water (100 mL), NaCl (sat.) (100 mL), dried over MgSO4 and then filtered. The solvent removed under reduced pressure. The crude material was sufficiently pure to use without further purification. The title compound was obtained in 79% yield (9.9 g, 37.3 mmol).

reactant | glycine anhydride | 43 mmol, 5.0 g | NCC(=O)OC(CN)=O | C4H8N2O3
reactant | NaH | 96 mmol, 3.9 g | [H-].[Na+]
reactant | 3-chloro-1-bromopropane | 96 mmol, 9.3 mL | ClCCCBr | C3H6BrCl
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
product | 1,4-Bis(3-chloropropyl)piperazine-2,5-dione | 79% yield | ClCCCN1C(CN(C(C1)=O)CCCCl)=O | C10H16Cl2N2O2
